US04877723
41.6 g of 6-nitro-2-styrylquinoline were added in portions to a mixture containing 69 g of reduced iron, 6.9 g of aluminum chloride, 450 ml of dioxane, and 90 ml of water with heating under reflux. After heating under reflux for a further 5 hours, the solid was filtered using a Nutsche filter in which sellaite is laid. The filtrate was condensed, 130 ml of ethyl acetate were added thereto, and the deposited crystals were filtered. 28 g (74% of the theoretical yield) of the 6 -amino-2-styrylquinoline crystals were produced.

reactant | 6-nitro-2-styrylquinoline | 41.6 g | [N+](=O)([O-])C=1C=C2C=CC(=NC2=CC1)C=CC1=CC=CC=C1 | C17H12N2O2
reactant | aluminum chloride | 6.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dioxane | 450 ml | O1CCOCC1 | C4H8O2
solvent | water | 90 ml | O | H2O
product | 6 -amino-2-styrylquinoline | NC=1C=C2C=CC(=NC2=CC1)C=CC1=CC=CC=C1 | C17H14N2
